US09447106B2
To a solution of 6-nitro-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile (90 mg, 0.25 mmol) in 2 mL of ethanol and 2 mL of DCM was added NaBH4 (19 mg, 0.5 mmol) at RT. After stirring at RT for 30 min, 5 mL of water was added. The mixture was concentrated. The residue was partitioned between 50 mL of DCM and 50 mL of brine. The combined organic layers were washed with brine (50 mL×2), dried over Na2SO4 and concentrated to afford 50 mg of 6-nitro-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile (55%) as a yellow solid. MS (ESI) m/e [M+1]+ 362.1.

reactant | 6-nitro-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 0.25 mmol, 90 mg | [N+](=O)([O-])C=1C=NC=2N(C1)N=C(C2C#N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C19H11N5O3
reactant | NaBH4 | 0.5 mmol, 19 mg | [BH4-].[Na+]
reactant | water | 5 mL | O | H2O
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 6-nitro-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile | 50 mg, 55% | [N+](=O)([O-])C1CNC=2N(C1)N=C(C2C#N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C19H15N5O3
